US07094914B2
After a reaction container equipped with a stirrer, a cooling tube and a thermometer was charged with 15 parts by weight of chlorosulfonic acid, 3 parts by weight of a mixture (content: 84.4% by weight, fumaric acid/maleic acid ratio=49/51) containing diethyl 2-(2-nitrophenoxy)fumarate and diethyl 2-(2-nitrophenoxy)maleate was added dropwise at an inner temperature of 50° C. or below. After completion of addition, the inner temperature was raised to 70° C. and the mixture was stirred and kept at the same temperature for 7 hours to obtain a reaction solution containing 8-nitro-2-ethoxycarbonyl-4-oxo-4H-1-benzopyran (reaction yield: 70%). After cooled to room temperature, the reaction solution was gradually added into 24 parts by weight of water. After kept at an inner temperature of 60° C. for 1 hour, the mixture was gradually cooled to an inner temperature of 0° C. Precipitated crystals were filtered and dried to obtain 1.3 parts by weight of a crystalline mixture containing 8-nitro-2-ethoxycarbonyl-4-oxo-4H-1-benzopyran and 8-nitro-2-carboxy-4-oxo-4H-1-benzopyran (the content of 8-nitro-2-ethoxycarbonyl-4-oxo-4H-1-benzopyran: 0.1% by weight; the content of 8-nitro-2-carboxy-4-oxo-4H-1-benzopyran: 86.4% by weight). The yield of 8-nitro-2-ethoxycarbonyl-4-oxo-4H-1-benzopyran was 0.1% and the yield of 8-nitro-2-carboxy-4-oxo-4H-1-benzopyran was 64%.

reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | fumaric acid maleic acid | C(\C=C\C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O | 2C4H4O4
reactant | diethyl 2-(2-nitrophenoxy)fumarate | [N+](=O)([O-])C1=C(O/C(/C(=O)OCC)=C\C(=O)OCC)C=CC=C1 | C14H15NO7
reactant | diethyl 2-(2-nitrophenoxy)maleate | [N+](=O)([O-])C1=C(O/C(/C(=O)OCC)=C/C(=O)OCC)C=CC=C1 | C14H15NO7
product | 8-nitro-2-ethoxycarbonyl-4-oxo-4H-1-benzopyran | yield: 70% | [N+](=O)([O-])C1=CC=CC=2C(C=C(OC21)C(=O)OCC)=O | C12H9NO6
